US04003951
To a Grignard solution, prepared from 1 g of magnesium chips activated with 1 g of iodine, 5 ml of 2-bromopropane and about 100 ml of tetrahydrofuran, were added over 10 minutes 1.76 g of 1-methyl-4-methylen-6-oxo-2,3,3a,4,5,6,7,8-octahydroazulene. The mixture was stirred vigorously for 30 minutes, cooled to 0° and treated with excess ice-cold ammonium chloride solution. The mixture was then extracted with ether, the organic extract washed with carbonate solution and water, dried over magnesium sulphate and concentrated under reduced pressure. The crude product (2.6 g), which was obtained in the form of a yellow oil, was distilled under high vacuum and yielded 1.6 g (yield 76%) of pure 6-hydroxy-6-isopropenyl-1-methyl-4-methylen-2,3,3a,4,5,6,7,8-octahydroazulene; b.p.0.1 ca 100° IR(film): νmax = 3550, 3090, 1640, 1450/40, 1378, 1330, 1220, 1165, 1105, 1065, 1038, 900/895, 780 cm-1. The compound has a woody, slightly camphorous, somewhat spicy odour.

reactant | magnesium | 1 g | [Mg] | Mg
reactant | iodine | 1 g | II | I2
reactant | 2-bromopropane | 5 ml | BrC(C)C | C3H7Br
reactant | 1-methyl-4-methylen-6-oxo-2,3,3a,4,5,6,7,8-octahydroazulene | 1.76 g | CC=1CCC2C(CC(CCC12)=O)=C | C12H16O
solvent | tetrahydrofuran | about 100 ml | O1CCCC1 | C4H8O
product | 6-hydroxy-6-isopropenyl-1-methyl-4-methylen-2,3,3a,4,5,6,7,8-octahydroazulene | 1.6 g, yield 76% | OC1(CC(C2CCC(=C2CC1)C)=C)C(=C)C | C15H22O
